US07094801B2
2-(4-{3-[4-(Methanesulfonyl-methyl-amino)-phenyl]-3-oxo-E-propenyl}-5-methoxy-2-thiophen-2-yl-phenoxy)-2-methyl-propionic acid
A solution of N-(4-acetyl-phenyl)-N-methyl-methanesulfonamide (Ex-101A, 298 mg, 1.31 mmol) and 2-(4-formyl-5-methoxy-2-thiophen-2-yl-phenoxy)-2-methyl-propionic acid (Ex-47D, 400 mg, 1.20 mmol) in DMF (5.25 mL) and MeOH (2.25 mL) was treated with lithium methoxide (182 mg, 4.8 mmol) and stirred for 6 hours at room temperature under nitrogen atmosphere. The reaction mixture was diluted with water (25 mL) which was then extracted with isopropyl acetate (2×50 mL). The aqueous portion was collected and acidified to a pH of 3 with 3N HCl. The aqueous solution was then extracted with isopropyl acetate (2×50 mL).

reactant | N-(4-acetyl-phenyl)-N-methyl-methanesulfonamide | 1.31 mmol, 298 mg | C(C)(=O)C1=CC=C(C=C1)N(S(=O)(=O)C)C | C10H13NO3S
reactant | 2-(4-formyl-5-methoxy-2-thiophen-2-yl-phenoxy)-2-methyl-propionic acid | 1.20 mmol, 400 mg | C(=O)C1=CC(=C(OC(C(=O)O)(C)C)C=C1OC)C=1SC=CC1 | C16H16O5S
reactant | lithium methoxide | 4.8 mmol, 182 mg | C[O-].[Li+]
solvent | DMF | 5.25 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 2.25 mL | CO | CH4O
solvent | water | 25 mL | O | H2O
product | 2-(4-{3-[4-(Methanesulfonyl-methyl-amino)-phenyl]-3-oxo-E-propenyl}-5-methoxy-2-thiophen-2-yl-phenoxy)-2-methyl-propionic acid | CS(=O)(=O)N(C1=CC=C(C=C1)C(/C=C/C1=CC(=C(OC(C(=O)O)(C)C)C=C1OC)C=1SC=CC1)=O)C | C26H27NO7S2
